US07601843B2
1-(3-Cyclohexyl-3-hydroxypropyl)-4-(5-methylpyridin-2-yl)aminopiperidine
A mixture of 4-(5-methylpyridin-2-yl)aminopiperidine (394 mg, 2 mmol), sodium hydrogencarbonate (277 mg, 3.2 mmol) and 3-cyclohexyl-3-hydroxypropyl 4-bromobenzenesulfonate (932 mg, 2.4 mmol) in 1,2-dimethoxyethane (10 mL) was refluxed for 8 hours. After then adding 5 g of NH silica Chromatorex DM1020 to the reaction mixture, it was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (60 g NH silica Chromatorex DM2035, hexane:ethyl acetate=1:1) to obtain the title compound as a light yellow solid (405 mg) (59.6% yield).

reactant | 4-(5-methylpyridin-2-yl)aminopiperidine | 2 mmol, 394 mg | CC=1C=CC(=NC1)NC1CCNCC1 | C11H17N3
reactant | sodium hydrogencarbonate | 3.2 mmol, 277 mg | C(O)([O-])=O.[Na+]
reactant | 3-cyclohexyl-3-hydroxypropyl 4-bromobenzenesulfonate | 2.4 mmol, 932 mg | BrC1=CC=C(C=C1)S(=O)(=O)OCCC(O)C1CCCCC1 | C15H21BrO4S
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | 1-(3-Cyclohexyl-3-hydroxypropyl)-4-(5-methylpyridin-2-yl)aminopiperidine | 405 mg, 59.6% yield | C1(CCCCC1)C(CCN1CCC(CC1)NC1=NC=C(C=C1)C)O | C20H33N3O
